US05646171
47(a) 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4butyrylimidazole-5-carbonitrile
Following a procedure similar to that described in Example 45(a), but using 0.877 g of 2-butyl-4-butyryl imidazole-5-carbonitrile (prepared as described in Preparation 26), 1.53 g of t-butyl 4-(bromomethyl )-biphenyl-2-carboxylate and 0.175 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 18 ml of N,N-dimethylacetamide, 0.99 g of the title compound was obtained as a viscous oil.

reactant | 2-butyl-4-butyryl imidazole-5-carbonitrile | 0.877 g | C(CCC)C=1NC(=C(N1)C(CCC)=O)C#N | C12H17N3O
reactant | t-butyl 4-(bromomethyl )-biphenyl-2-carboxylate | 1.53 g | BrCC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C18H19BrO2
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | N,N-dimethylacetamide | 18 ml | CN(C(C)=O)C | C4H9NO
product | 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4butyrylimidazole-5-carbonitrile | 0.99 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C#N)C(CCC)=O)CCCC | C30H35N3O3
